US05538988
substituting methyl 4-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol -1-ylmethyl]benzoate and sodium hydroxide gave 4-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-ylmethyl]benzoic acid, m.p. 211°-212° C.;

reactant | methyl 4-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol -1-ylmethyl]benzoate | C1C(CCC2=CC=CC=C12)N1C(N(C=C1)CC1=CC=C(C(=O)OC)C=C1)=S | C22H22N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-ylmethyl]benzoic acid | C1C(CCC2=CC=CC=C12)N1C(N(C=C1)CC1=CC=C(C(=O)O)C=C1)=S | C21H20N2O2S
